US08097759B2
N-(3,5-Dichlorophenyl)-3-hydroxy-2-naphthamide (Compound No. 19)
Using 3-hydroxynaphthalene-2-carboxylic acid and 3,5-dichloroaniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 3-hydroxynaphthalene-2-carboxylic acid | OC=1C(=CC2=CC=CC=C2C1)C(=O)O | C11H8O3
reactant | 3,5-dichloroaniline | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
product | N-(3,5-Dichlorophenyl)-3-hydroxy-2-naphthamide | ClC=1C=C(C=C(C1)Cl)NC(=O)C1=CC2=CC=CC=C2C=C1O | C17H11Cl2NO2
